US09079866B2
5-(2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-thiadiazol-2-amine
To a solution of 5-(4-bromo-2-fluorophenyl)-1,3,4-thiadiazol-2-amine (2.73 g, 10.0 mmol) in 1,4-dioxane (20 mL) were added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.54 g, 10.0 mmol) and KOAc (1.5 g, 20.0 mmol). The mixture was sparged with N2 for 10 min. Pd(dppf)Cl2.CH2Cl2 (82 mg, 0.1 mmol) was then added, and the mixture, stirred at 80° Celsius for 1 hour under N2. After cooling to rt, the reaction mixture was filtered through a pad of anhydrous Na2SO4 and the filtrate concentrated to dryness. The residue was purified by FCC to give the title compound. MS (ESI): mass calcd. for C14H17N3BO2SBr 321.11, m/z found 322.1 [M+H]+. 1H NMR (300 MHz, CDCl3) δ 8.28-8.19 (m, 1H), 7.65 (dd, J=7.8, 1.0, 1H), 7.57 (d, J=11.3, 1H), 5.39 (s, 2H), 1.36 (s, 12H).

reactant | 5-(4-bromo-2-fluorophenyl)-1,3,4-thiadiazol-2-amine | 10.0 mmol, 2.73 g | BrC1=CC(=C(C=C1)C1=NN=C(S1)N)F | C8H5BrFN3S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 10.0 mmol, 2.54 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 20.0 mmol, 1.5 g | CC(=O)[O-].[K+]
reactant | CH2Cl2 | 0.1 mmol, 82 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-(2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-thiadiazol-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=NN=C(S1)N | C14H17BFN3O2S
